US07652032B2
2-methyl-6-hydroxyimidazo[1,2-α]pyridine
A mixture composed of 1.92 g (11 mM) of 2-methyl-6-methoxyimidazo[1,2-α]pyridine and of 7.26 g (45 mM) of pyridinium hydrobromide is heated to melting point for 8 hours. The mixture is then cooled and water is added thereto. The aqueous phase is brought to a basic pH with sodium bicarbonate and extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The desired product is thus obtained in the form of a beige solid with a yield of 30%.

reactant | 2-methyl-6-methoxyimidazo[1,2-α]pyridine | 11 mM, 1.92 g | CC=1N=C2N(C=C(C=C2)OC)C1 | C9H10N2O
reactant | pyridinium hydrobromide | 45 mM, 7.26 g | Br.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 2-methyl-6-hydroxyimidazo[1,2-α]pyridine | yield of 30% | CC=1N=C2N(C=C(C=C2)O)C1 | C8H8N2O
